US06130217
3-(Pyridin-2-ylamino)phenol
3-Aminophenol (3.0 g, 27.5 mM) and 2-bromopyridine (4.34 g, 27.5 mM) were combined in acetic acid (15 mL) and heated for about 18 hours. The mixture was concentrated in vacuo and placed on a column of silica gel (150 g). The product was eluted with 3% methanol/methylene chloride to provide 1.2 g of an off white solid.

reactant | 3-Aminophenol | 27.5 mM, 3.0 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | 2-bromopyridine | 27.5 mM, 4.34 g | BrC1=NC=CC=C1 | C5H4BrN
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 3-(Pyridin-2-ylamino)phenol | N1=C(C=CC=C1)NC=1C=C(C=CC1)O | C11H10N2O
